* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\311Project\Charger\Simulations\Charger.asc
* Generated by LTspice 24.1.9 for Windows.
V1 5V 0 5
R13 N002 0 150k
X§M2 Drain1 N004 5V irf4905slpbf
R2 0.5V N007 10k
R6 Vout N008 100k
R14 Drain1 N003 100k
R15 N003 0 100k
R16 Vout Drain1 1
R5 N008 N006 100k
X§D3 N005 N004 BAT85
R4 0 N004 10k
X§U2 N002 2V5 5V 0 N005 TLC081
X§U1 N006 0.5V 5V 0 N007 TLC081
X§U3 N003 N008 5V 0 N006 TLC081
X§U4 N015 2V5 5V 0 2V5 TLC081
R7 5V N015 100k
R8 N015 0 100k
C2 N015 0 100n
X§U6 N014 0.5V 5V 0 0.5V TLC081
C4 N014 0 1µ
R9 5V N014 180k
R17 5V N014 180k
R18 N014 0 10k
R12 Drain1 N002 100k
R19 Drain1 N002 150k
X§D1 N007 N004 BAT85
C1 Vout 0 30
X§U7 N016 0.6V 5V 0 0.6V TLC081
C3 N016 0 1µ
R3 N016 0 5.6k
R10 N016 0 1.2k
R11 N013 N016 4.7k
R20 5V N013 3.3k
R27 Vout P001 3.9k
R28 P001 N009 3.9k
R29 N009 P002 6.8k
R30 P002 0 8.2k
R1 2V5 N005 3.9k
C5 Drain1 N002 100n
.tran 0 1000 0 0.5
* CC/CV Loop Connected together via diode-or and pull down
.ic V(Vout)=2.5
.include irf4905slpbf.txt
.include TLC081.mod
.include BAT85.txt
* Low-Pass 100k//1u cutoff @ 1.59Hz
* Low-Pass 10k//1u cutoff @ 15.92Hz
* 2.5V Reference
* 0.5V Reference
* Low-Pass 10k//1u cutoff @ 15.92Hz
* 0.6V Reference
.include lm393.lib
.include irf3205.spi
.backanno
.end
