* C:\Users\jmstr\OneDrive - The University of Auckland\University\Year 3\ELECTENG 311\311Project\Charger\Simulations\Charger.asc
* Generated by LTspice 24.1.9 for Windows.
V1 5V 0 5
R13 N007 0 150k
X§M2 Drain1 N005 5V irf4905slpbf
R2 N012 CC_Out 10k
X§D3 CV_Out N005 BAT85
X§U2 N007 2V5 5V 0 CV_Out TLC081
X§U1 VRsense 0.5V 5V 0 CC_Out TLC081
X§U4 N022 2V5 5V 0 2V5 TLC081
R7 5V N022 100k
R8 N022 0 100k
C2 N022 0 100n
X§U6 N020 0.5V 5V 0 0.5V TLC081
C4 N020 0 1µ
R9 5V N020 180k
R17 5V N020 180k
R18 N020 0 10k
R12 Drain1 N007 100k
R19 Drain1 N007 150k
X§D1 CC_Out N005 BAT85
X§U7 N023 0.6V 5V 0 0.6V TLC081
C3 N023 0 1µ
R3 N023 0 5.6k
R10 N023 0 1.2k
R11 N018 N023 4.7k
R20 5V N018 3.3k
R1 N011 CV_Out 10k
C5 Drain1 N007 100n
C6 2V5 N011 100n
R21 0 N005 10k
C7 0.5V N012 100n
R24 Vout Drain1 1
R25 N008 VRsense 100k
X§U5 N006 N008 5V 0 VRsense TLC081
C8 Vout 0 30
R26 Vout P001 3.9k
R31 P001 Vover_voltage 3.9k
R32 Vover_voltage P002 6.8k
R33 P002 0 8.2k
R6 Vout N008 100k
R4 N006 0 100k
R14 Drain1 N006 100k
C1 N014 0 30
R5 N014 P003 3.9k
R15 P003 N021 3.9k
R16 N021 P004 6.8k
R22 P004 0 8.2k
V2 N014 0 3.8
.tran 0 1000 0 0.5
.ic V(Vout)=2.5
.include irf4905slpbf.txt
.include TLC081.mod
.include BAT85.txt
* Low-Pass 100k//1u cutoff @ 1.59Hz
* Low-Pass 10k//1u cutoff @ 15.92Hz
* 2.5V Reference
* 0.5V Reference
* Low-Pass 10k//1u cutoff @ 15.92Hz
* 0.6V Reference
.include lm393.lib
.include irf3205.spi
* Diode-OR to PMOS
* CV Loop
* Sense Resistor
* CC Loop
* Spice Models
* Sources
* Voltage Divider for OVP Comparitor (Vout = 3.5V)
* Differential Amplifier
* Error Amplifier
* Error Amplifier
* Analysis Configuration
* Voltage Divider for OVP Comparitor (Vout > 3.8V)
.backanno
.end
